US08471005B2
(2-{2-[4-(4-Methyl-piperazin-1-yl)-phenylamino]-pyrrolo[2,1-f][1,2,4]triazin-7-yl}-phenoxy)-acetonitrile
Into a 30 mL vial, Palladium Acetate (10 mg, 0.04 mmol), Triphenylphosphine (33 mg, 0.12 mmol) were added. The mixture was purged with nitrogen for 10 minutes. (7-Bromo-pyrrolo[2,1-f][1,2,4]triazin-2-yl)-[4-(4-methyl-piperazin-1-yl)-phenyl]-amine (110.0 mg, 0.2840 mmol), [2-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenoxy]-acetonitrile (0.1472 g, 0.5681 mmol), N,N-Dimethylformamide (2.00 mL) and 1.50 M of Sodium carbonate in Water (2.0 mL, 3.0 mmol) were added. The reaction mixture was heated at 55° C. for 45 minutes. The reaction was partitioned with water and DCM. The organic was separated, washed with Brine and dried over Na2SO4. The solid was filtered and washed with DCM. The solvent was removed under vacuum. The desired product was isolated via ISCO column chromatography with DCM and methanol as eluant (0 to 15% methanol). The collected fractions afforded (2-{2-[4-(4-Methyl-piperazin-1-yl)-phenylamino]-pyrrolo[2,1-f][1,2,4]triazin-7-yl}-phenoxy)-acetonitrile as a yellow solid (65 mg, 52%). LCMS (E/I+) 440.2 (M+H). MP 95-101° C. NMR 1H (DMSO-d6)-9.16 (s, 1H), 8.92 (s, 1H), 7.88-7.98 (m, 1H), 7.48-7.58 (m, 3H), 7.34 (d, 1H, J=9.43), 7.26 (t, 1H, J=8.64 Hz), 6.94 (d, 1H, J=5.50), 6.90 (d, 1H, J=4.70 Hz), 6.81 (d, 2H, J=9.43 Hz), 5.19 (s, 2H), 3.03 (bs 3H), 2.45 (bs, 3H), 2.22 (s, 3H).

reactant | Triphenylphosphine | 0.12 mmol, 33 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | (7-Bromo-pyrrolo[2,1-f][1,2,4]triazin-2-yl)-[4-(4-methyl-piperazin-1-yl)-phenyl]-amine | 0.2840 mmol, 110.0 mg | BrC1=CC=C2C=NC(=NN21)NC2=CC=C(C=C2)N2CCN(CC2)C | C17H19BrN6
reactant | [2-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenoxy]-acetonitrile | 0.5681 mmol, 0.1472 g | CC1(OB(OC1(C)C)C1=C(OCC#N)C=CC=C1)C | C14H18BNO3
reactant | Sodium carbonate | 1.50 M | C([O-])([O-])=O.[Na+].[Na+]
reactant | Water | 3.0 mmol, 2.0 mL | O | H2O
catalyst | Palladium Acetate | 0.04 mmol, 10 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | N,N-Dimethylformamide | 2.00 mL | CN(C=O)C | C3H7NO
product | (2-{2-[4-(4-Methyl-piperazin-1-yl)-phenylamino]-pyrrolo[2,1-f][1,2,4]triazin-7-yl}-phenoxy)-acetonitrile | CN1CCN(CC1)C1=CC=C(C=C1)NC1=NN2C(C=N1)=CC=C2C2=C(OCC#N)C=CC=C2 | C25H25N7O
